Sensor interface: 12 V supply, 5 V rail, sensor amplifier and LED
* The example circuit of doc/tutorial.md: a small automotive module.

* Battery and input protection: reverse-polarity diode and bulk capacitor
V1 bat 0 13.5
D1 bat vin DRECT
C1 vin 0 47u

* 5 V rail: zener reference and emitter follower
R1 vin z 2.2k
DZ1 0 z DZ56
Q1 vin z v5 QPASS
C2 v5 0 10u
* The microcontroller on the 5 V rail, as a current
IMCU v5 0 20m

* Sensor amplifier: a 0.5 V sensor signal, amplified 4.9 times
VS sens 0 0.5
R4 sens inp 10k
C3 inp 0 10n
XU1 inp fb v5 0 out opamp
R5 fb 0 10k
R6 out fb 39k

* Status LED, switched by a MOSFET from a logic output: on at the operating
* point (DC 5), blinking at 1 kHz with a duty cycle of 50 % in a transient
VG g 0 DC 5 PULSE(0 5 0 1u 1u 0.5m 1m)
R7 vin led 1k
D2 led k DLED
M1 k g 0 0 NMOS1

.include "models/opamp.lib"
.model DRECT D(IS=1n N=1.8 RS=0.05)
.model DZ56  D(IS=1p BV=5.6 IBV=5m)
.model DLED  D(IS=1e-20 N=2 RS=5)
.model QPASS NPN(IS=1e-14 BF=150)
.model NMOS1 NMOS(VTO=1.5 KP=0.1)
.end
