* Op-amp macro model for the tutorial: inp inn vcc vee out
* A gain of 100k, a quiescent supply current of 0.8 mA, and the output
* current drawn from vcc, so that the power at the pins is what a real
* op-amp dissipates. All currents return through vee.
.subckt opamp inp inn vcc vee out
IQ  vcc vee 0.8m
E1  int vee inp inn 100k
RO  int mid 50
VO  mid out 0
F1  vcc vee VO 1
.ends opamp
