.title KiCad schematic
.include "models/opamp.lib"
.save all
.probe alli
.op
XU1 /in /fb VCC 0 /out opamp
R1 /in /fb 10k
R2 /fb /out 47k
C1 /out 0 100n
VBT1 VCC 0 DC 12
V1 /in 0 dc 1 ac 1
D1 /out Net-_D1-A_ 1N4148
R3 Net-_D1-A_ 0 1k
.model 1N4148 D(IS=2.52n RS=0.568 N=1.752)
.end
