OP probe circuit: one element of each kind handled by fitcalc
* Verified with ngspice 47
V1 vcc 0 12
R1 vcc out 10k
R2 out 0 1k
C1 out 0 100n
L1 vcc nl 10u
R3 nl dk 1k
D1 dk 0 DMOD
D2 0 vcc DMOD
RB vcc b 100k
Q1 c b 0 QMOD
RC vcc c 2k
M1 d g 0 0 NMOD
RG vcc g 1meg
RG2 g 0 300k
RD vcc d 1k
J1 dj 0 0 JMOD
RJ vcc dj 5k
X1 vcc sub1 DIV
.subckt DIV a b
RA a b 2k
RB2 b 0 2k
.ends
.model DMOD D(IS=1e-14)
.model QMOD NPN(BF=100)
.model NMOD NMOS(VTO=1 KP=1e-3)
.model JMOD NJF(VTO=-2 BETA=1e-4)
.op
.end
